US04337256
1-(4-Nitrophenyl)isoquinoline-5-acetic acid (5.0 g) was dissolved in 300 ml of ethanol, and 4.0 ml of conc. sulfuric acid was added. The mixture was heated for 6 hours. After the reaction, the solvent was distilled off. Benzene was added to the residue. It was washed in water and dried. The solvent was distilled off, and the residue was recrystallized from ethanehexane to afford 4.8 g of ethyl 1-(4-nitrophenyl)isoquinoline-5-acetate as colorless needles having a melting point of 89.5° to 90.5° C.

reactant | 1-(4-Nitrophenyl)isoquinoline-5-acetic acid | 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC(=O)O | C17H12N2O4
reactant | sulfuric acid | 4.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 1-(4-nitrophenyl)isoquinoline-5-acetate | 4.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC(=O)OCC | C19H16N2O4
